US09029374B2
2-(1H-benzo[d][1,2,3]triazol-1-yl)-1,1,3,3-tetramethylisouronium tetrafluoroborate (113 mg, 0.35 mmol) was added to a stirred solution of 8-(1-((3,5-difluorophenyl)(methyl)amino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid (130 mg, 0.29 mmol), 4-methylmorpholine (0.080 mL, 0.73 mmol) and piperidin-4-ol (36 mg, 0.35 mmol) dissolved in NMP (1.2 mL). The resulting solution was stirred at 23° C. for 2 hrs. The reaction mixture was purified by preparative HPLC using a Waters SunFire system. The fractions containing the desired compound were evaporated, triturated with ether and dried to afford 8-(1-((3,5-difluorophenyl)(methyl)amino)ethyl)-6-(4-hydroxypiperidine-1-carbonyl)-2-morpholino-4H-chromen-4-one (90 mg, 58%) as a white solid. Mass Spectrum: M+H+ 528. NMR Spectrum (DMSOd6 at 323° K): 1.38 (bs, 2H), 1.57 (d, 3H), 1.75 (bs, 2H), 2.66 (s, 3H), 3.23-3.30 (m, 2H), 3.30-3.38 (m, 2H), 3.61 (m, 4H), 3.65 (bs, 4H), 3.71-3.79 (m, 1H), 4.66 (d, 1H), 5.52 (s, 1H), 5.54 (q, 1H), 6.36 (t, 1H), 6.50 (d, 2H), 7.62 (d, 1H), 7.87 (d, 1H).

reactant | 8-(1-((3,5-difluorophenyl)(methyl)amino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid | 0.29 mmol, 130 mg | FC=1C=C(C=C(C1)F)N(C(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)O)C | C23H22F2N2O5
reactant | 4-methylmorpholine | 0.73 mmol, 0.080 mL | CN1CCOCC1 | C5H11NO
reactant | piperidin-4-ol | 0.35 mmol, 36 mg | N1CCC(CC1)O | C5H11NO
solvent | NMP | 1.2 mL | CN1CCCC1=O | C5H9NO
product | 8-(1-((3,5-difluorophenyl)(methyl)amino)ethyl)-6-(4-hydroxypiperidine-1-carbonyl)-2-morpholino-4H-chromen-4-one | 90 mg, 58% | FC=1C=C(C=C(C1)F)N(C(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N1CCC(CC1)O)C | C28H31F2N3O5
